US07419936B2
(5R)-1-Allyl-5-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]-2-pyrrolidinone (XVII-1)
Under argon, KOtBu (0.64 g, 5.7 mmol) is suspended, in a Schlenk tube which had been dried by heating, in THF (5 ml, anhydrous). At 0° C., a solution of (4S)-N-allyl-4-hydroxy-4-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]butanamide (XVI-1) (0.99 g, 2.6 mmol) in THF (8 ml, anhydrous) is added dropwise. The reaction mixture is stirred at 0° C. for 1 h and a solution of tosyl chloride (0.52 g, 2.7 mmol) in THF (5 ml, anhydrous) is then added dropwise over a period of 20 min. The mixture is stirred at 0° C. for 2 h and at room temperature for 16 h. For work-up, the mixture is admixed with water, adjusted to pH 5 using HCl and extracted with ethyl acetate. The combined organic phases are dried (Na2SO4) and concentrated. The residue (0.85 g, content: 81%, HPLC, 100% method) is further purified by flash chromatography (mobile phase: ethyl acetate/petroleum ether (40/60), 1:1).

reactant | KOtBu | 5.7 mmol, 0.64 g | CC(C)(C)[O-].[K+]
reactant | (4S)-N-allyl-4-hydroxy-4-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]butanamide | 2.6 mmol, 0.99 g | C(C=C)NC(CC[C@@H](C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)O)=O | C20H20F3NO3
reactant | tosyl chloride | 2.7 mmol, 0.52 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | HCl | Cl | ClH
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (5R)-1-Allyl-5-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]-2-pyrrolidinone | C(C=C)N1C(CC[C@@H]1C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)=O | C20H18F3NO2
